US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-cyclopropyl-2-cyclopropylimino-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 3.1 g of 1,3-dicyclopropylthiourea were reacted according to the prescription given in Example 12 and the colorless crystalline precipitate of the end product was filtered off.

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-dicyclopropylthiourea | 3.1 g | C1(CC1)NC(=S)NC1CC1 | C7H12N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-cyclopropyl-2-cyclopropylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CC1)C1CC1)O)S(N)(=O)=O | InChI=1S/C15H18ClN3O3S2.ClH/c16-12-6-1-9(7-13(12)24(17,21)22)15(20)8-23-14(18-10-2-3-10)19(15)11-4-5-11;/h1,6-7,10-11,20H,2-5,8H2,(H2,17,21,22);1H
